US03957783
To a solution of 2.50 g of 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)thiophene in 50 ml of dichloromethane is added dropwise 2.16 g of sulfuryl chloride in 30 ml of dichloromethane. After stirring the reaction mixture for overnight at room temperature, the reaction mixture is neutralized with aqueous ammonia, then extracted with methylene chloride. The methylene chloride extracts are washed with water, dried over sodium sulfate, then evaporated under reduced pressure to a residue. The residue is chromatographed on silica gel using chloroform as an eluent to give 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene as an oil.

reactant | 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)thiophene | 2.50 g | CCC(=O)NC=1SC=CC1C(C1=C(C=CC=C1)F)=O | C14H12FNO2S
reactant | sulfuryl chloride | 2.16 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | N | H3N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene | CCC(=O)NC=1SC(=CC1C(C1=C(C=CC=C1)F)=O)Cl | C14H11ClFNO2S
